US07863317B2
N,N′-Dicyclohexylcarbodiimide (1.1 g, 5.3 mol) was added to a solution of α,α,α-trifluoro-m-toluic acid (1.0 g, 5.3 mmol) and pentafluorophenol (1.1 g, 5.8 mmol) in THF (10.0 mL). After stirring for 3.5 h, the solvent was removed under vacuum. The residue was dissolved in Et2O (20 mL), filtered, and washed with brine (2×10 mL), dried over Na2SO4, filtered, and evaporated to dryness to provide compound perfluorophenyl 3-(trifluoromethyl)benzoate as a yellow oil (1.7 g, 90%): 1H NMR (300 MHz, CD3OD) δ 8.51-8.39 (m, 2H), 8.09 (d, J=6.0 Hz, 1H), 7.88-7.79 (m, 1H); 19F NMR (282 MHz, CD3OD) δ −64.9 (3F), −155.6 (2F), −165.7 (1F), −168.9 (2F).

reactant | N,N′-Dicyclohexylcarbodiimide | 5.3 mol, 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | α,α,α-trifluoro-m-toluic acid | 5.3 mmol, 1.0 g | FC(C1=CC(=CC=C1)C(=O)O)(F)F | C8H5F3O2
reactant | pentafluorophenol | 5.8 mmol, 1.1 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | perfluorophenyl 3-(trifluoromethyl)benzoate | 1.7 g, 90% | FC(C=1C=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC1)(F)F | C14H4F8O2
